US08426604B2
5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-{[1-(2-methoxy-ethyl)-pyrrolidin-3-ylmethyl]-methyl-amino}-thiazol-4-one was prepared from 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-propylsulfanyl-thiazolidin-4-one and [1-(2-Methoxy-ethyl)-pyrrolidin-3-ylmethyl]-methyl-amine following General Procedure B.

reactant | 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-propylsulfanyl-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)SCCC)=O)C=C1)C(F)(F)F | C22H19ClF3N3OS2
reactant | [1-(2-Methoxy-ethyl)-pyrrolidin-3-ylmethyl]-methyl-amine | COCCN1CC(CC1)CNC | C9H20N2O
product | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-{[1-(2-methoxy-ethyl)-pyrrolidin-3-ylmethyl]-methyl-amino}-thiazol-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(C)CC2CN(CC2)CCOC)=O)C=C1)C(F)(F)F | C28H29ClF3N5O2S
